US04576911
Synthesis of 1-(2,3-dichlorophenyl)-3-methacryloylamino-2-pyrazoline-5-one (Exemplified Compound 1)
Forty grams (0.16 mole) of 1-(2,3-dichlorophenyl)-3-amino-2-pyrazoline-5-one, 30.4 ml (0.38 mole) of pyridine, and 4.0 ml of nitrobenzene were added to 600 ml of tetrahydrofuran, and to the mixture, cooled by ice, were added dropwise 39.2 g (0.38 mole) of methacryloyl chloride, and the liquid was stirred for 30 minutes, and then poured into 4 liters of water, extracted with use of ethyl acetate, then dried with use of anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure at a temperature of from 25° to 35° C. To the remaining oily substance were added 80 ml of ethanol and 80 ml of water and then a solution containing 22.4 g (0.56 mole) of sodium hydroxide. This mixture was stirred for 30 minutes at room temperature, and neutralized with acetic acid. The deposited crystals were filtrated, and recrystallized from methanol, whereby 32.4 g (64%) of Coupler Monomer (1 ) were obtained.

reactant | 1-(2,3-dichlorophenyl)-3-amino-2-pyrazoline-5-one | 0.16 mole, Forty grams | ClC1=C(C=CC=C1Cl)N1N=C(CC1=O)N | C9H7Cl2N3O
reactant | pyridine | 0.38 mole, 30.4 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 4.0 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methacryloyl chloride | 0.38 mole, 39.2 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 0.56 mole, 22.4 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 4 liters | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-(2,3-dichlorophenyl)-3-methacryloylamino-2-pyrazoline-5-one | ClC1=C(C=CC=C1Cl)N1N=C(CC1=O)NC(C(=C)C)=O | C13H11Cl2N3O2
